US07678818B2
To a solution of 100 mg of 3-methyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester (0.55 mmol) in methanol (5 ml) were added 52 mg of sodium hydroxide (1.3 mmol) and 77 mg of iodomethane (0.54 mmol) and the mixture was stirred at RT over night. The reaction mixture was then concentrated in vacuo at low temperature and 33 mg (31%) of 1,3-dimethyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester were isolated from the remaining solid by HPLC (reversed phase, MeCN/water 20:80 to 50:50). MS (ISP) 198.2 (M+H)+.

reactant | 3-methyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester | 0.55 mmol, 100 mg | C(C)OC(=O)C=1C(=NNC1NC)C | C8H13N3O2
reactant | sodium hydroxide | 1.3 mmol, 52 mg | [OH-].[Na+]
reactant | iodomethane | 0.54 mmol, 77 mg | IC | CH3I
solvent | methanol | 5 ml | CO | CH4O
product | 1,3-dimethyl-5-methylamino-1H-pyrazole-4-carboxylic acid ethyl ester | 33 mg, 31% | C(C)OC(=O)C=1C(=NN(C1NC)C)C | C9H15N3O2
